US07601722B2
tert-butyl [4-(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)-2-oxobutyl]methylcarbamate (50 mg, 0.112 mmol), hydroxylamine hydrochloride (50 mg, 0.720 mmol), and pyridine (1.5 mL) were stirred in ethyl alcohol (3 mL) in a sealed vial at 70° C., for 3 hr. The reaction was allowed to cool to room temperature and transferred to a separatory funnel with dichloromethane and washed with a saturation aqueous solution of sodium bicarbonate, brine, dried (MgSO4), filtered and the solvent removed, in vacuo, to give a clear oil. This material was adsorbed onto silica gel and purified via Isco chromatography (Redisep, silica, gradient 0-50% ethyl acetate in hexane to afford a white solid. This material was dissolved in diethyl ether and methanol and 4N HCl in dioxane was added a precipitate formed. The mixture was filtered to afford 0.028 g (62% Yield) of (2Z)-4-(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)-1-(methylamino)butan-2-one oxime as an off white solid.

reactant | tert-butyl [4-(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)-2-oxobutyl]methylcarbamate | 0.112 mmol, 50 mg | O=S1(N(C2=C(N1CCC(CN(C(OC(C)(C)C)=O)C)=O)C=CC=C2)C2=CC=CC=C2)=O | C22H27N3O5S
reactant | hydroxylamine hydrochloride | 0.720 mmol, 50 mg | Cl.NO
reactant | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 4N | Cl | ClH
solvent | ethyl alcohol | 3 mL | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2Z)-4-(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)-1-(methylamino)butan-2-one oxime | 0.028 g, 62% Yield | O=S1(N(C2=C(N1CC/C(/CNC)=N/O)C=CC=C2)C2=CC=CC=C2)=O | C17H20N4O3S
